Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
code stroke
 
Major Surgical or Invasive Procedure:
NA
 
History of Present Illness:
The patient is a ___ year old man with anxiety who presents to 
the
ED via EMS as a code stroke after developing sudden onset
dysarthria and altered mental status. 

Per friend, patient was out drinking at ___ yesterday
evening. She notes that he had 3 drinks between the hours of 5 
___
and 9 ___ when his symptoms began. There was a fourth drink on 
the
table at the time but he had not had any of it per report.

He was talking normally until roughly 9 ___ when he suddenly
appeared "very drunk," slurring his words. His friend is clear
that this was an abrupt change rather than a gradual change over
the course of the evening. She then noted that his eyes started
"fluttering" back in his head and he slumped down in his chair.
His friends had a hard time keeping him upright and EMS was
called.

Upon arrival to the ED, initial evaluation was notable for
overall preserved ability to follow commands with possible left
gaze deviation. 

He was brought to the CT scanner where he soon became unable to
follow commands and agitated to the point that he required 2 mg
IV Ativan and 5 mg IV Haldol in order to keep him calm enough 
for
imaging to be obtained. The patient briefly desatted to the ___
after these sedatives but rapidly improved with face mask. 

Given abrupt onset of symptoms and possible aphasia/dysarthria 
as
well as right NLFF, decision was made to give tPA. Patient
subsequently had an ethanol level of 364.

Complete ROS unable to be obtained due to the patient's mental
status. Patient's friend reported that he had been feeling well
this evening. 

 
Past Medical History:
ASTHMA                                                        
ANXIETY 
 
Social History:
___
Family History:
Relative Status   Age Problem               
Mother   Living                                                 

Father   Living       SKIN CANCERS                              
                      PROSTATE CANCER                           
                      HEART PROBLEMS                            

MGM      Living       NARCOTIC USE                              
                      ALCOHOL ABUSE     
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: T 97.0, HR 98, BP 138/101, RR 16, Sa 94% RA 
General: Eyes open, agitated, making unintelligible sounds at
times, mumbling ___ at other times, smiling inappropriately
when asked certain questions 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic Exam:

-Mental Status: Eyes open, unable to answer orientation
questions. Can follow simple one but not two step commands.
Unable to repeat phrases. Unable to read sentences or name items
on stroke card. When asked other questions, repeats ___ and
"yup" repeatedly. Able to name glasses and pen when more lucid. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Possible left gaze preference though can easily cross
midline with VOR.
V: Facial sensation intact to light touch.
VII: Right NLFF. 
VIII: Hearing intact to conversation bilaterally.
IX, X: Speech is dysarthric. Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted. Unable to perform formal confrontation testing
due to mental status.

-Sensory: Withdraws to noxious in all 4. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: Unable to cooperate due to mental status. 

-Gait/Station: Did not assess. 

DISCHARGE EXAM:
===============
VS: afebrile, SBP 110s-150s, HR ___, on RA

General: Appears well. Lying comfortably in bed. NAD.
 
Neurologic Exam:
-Mental Status: Alert, attentive, and oriented to name, 
location,
and date. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with no
nystagmus.
V: Facial sensation intact to light touch.
VII: No facial asymmetry.
VIII: Hearing intact to conversation bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline. 

-Motor: Normal bulk, tone throughout. No pronator drift. 
Strength
is ___ throughout. 

-Sensory: Intact to light touch bilaterally. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: FNF testing intact. No dysmetria. 

-Gait/Station: Did not assess. 
 
Pertinent Results:
ADMISSION LABS:
___ 09:53PM BLOOD WBC-7.6 RBC-4.88 Hgb-15.7 Hct-44.2 MCV-91 
MCH-32.2* MCHC-35.5 RDW-12.3 RDWSD-40.3 Plt ___
___ 09:53PM BLOOD Neuts-64.9 ___ Monos-8.2 Eos-0.5* 
Baso-1.0 Im ___ AbsNeut-4.95 AbsLymp-1.92 AbsMono-0.63 
AbsEos-0.04 AbsBaso-0.08
___ 09:53PM BLOOD ___ PTT-34.8 ___
___ 09:53PM BLOOD Plt ___
___ 09:53PM BLOOD UreaN-14
___ 09:53PM BLOOD ALT-30 AST-32 AlkPhos-83 TotBili-0.5
___ 06:00AM BLOOD GGT-19
___ 09:53PM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD CK-MB-1 cTropnT-<0.01
___ 06:00AM BLOOD %HbA1c-4.9 eAG-94
___ 06:00AM BLOOD Triglyc-128 HDL-84 CHOL/HD-2.7 
LDLcalc-118
___ 06:00AM BLOOD TSH-3.3
___ 06:00AM BLOOD CRP-1.9

DISCHARGE LABS:
___ 06:10AM BLOOD WBC-5.8 RBC-4.56* Hgb-14.7 Hct-42.0 
MCV-92 MCH-32.2* MCHC-35.0 RDW-12.3 RDWSD-40.9 Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD ___ PTT-32.4 ___
___ 06:10AM BLOOD Glucose-91 UreaN-13 Creat-0.8 Na-138 
K-3.3* Cl-100 HCO3-27 AnGap-11
___ 06:10AM BLOOD Calcium-9.3 Phos-3.0 Mg-1.8

MR head w/wo:
Unremarkable brain MRI. 

NONCONTRAST HEAD CT: 
No acute intracranial abnormality. 
  
CTA HEAD NECK: 
The circle of ___ and its principal branches are patent. The 
dural venous 
sinuses are patent. The carotid and vertebral arteries are 
patent. 
  
CT PERFUSION: No infarct core or ischemic penumbra. 
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
=======
[] Due to chronic alcohol use, he should follow-up with 
outpatient counseling. 
[] He will need to follow-up with outpatient neurology as he 
likely had an alcohol-induced seizure. An appointment is being 
arranged.
[] He should not drive for 6 months. 
[] Avoid Wellbutrin in the future or medications that lower 
seizure threshold.
[] He is being discharged on naltrexone to assist with alcohol 
abstinence. He was discharged with *** days. This prescription 
will need to be continued by his PCP.

SUMMARY:
=======
Mr. ___ is a ___ year-old man with past medical history of 
anxiety who presented with sudden-onset dysarthria, altered 
mental status, and a NIHSS of 6. He was given tPA at 22:25 on 
___ and was admitted to the stroke service. Ethanol level was 
markedly elevated at 364. NIHSS at 9 hrs post tPA was noted to 
be 0. CT-HEAD, CTA, and MRI were unremarkable. EEG was also 
normal. Because his symptoms presented in the setting of alcohol 
use, most likely etiology is alcohol-induced seizure. He was 
seen by addiction counseling, who recommended naltrexone. On the 
day of discharge, his symptoms have completely resolved and he 
has returned to baseline. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
2. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 
3. LORazepam 0.5 mg PO QHS:PRN anxiety 

 
Discharge Medications:
1.  Naltrexone 50 mg PO DAILY 
RX *naltrexone 50 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
3.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1  
4.  LORazepam 0.5 mg PO QHS:PRN anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol-induced seizure 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___!

You were hospitalized due to symptoms of difficulty speaking and 
altered mental status resulting from a seizure.

Seizure can have many different causes. We assessed you for any 
structural causes in your brain that may increase your risk of 
having a seizure. These results were negative. However, your 
risk factors include chronic alcohol use. Alcohol can make your 
brain more likely to have a seizure. You have been evaluated by 
addiction counselor and given resources to stop drinking.

We would like you to stop driving for 6 months. You will have 
follow-up with neurology to decide if you can drive after this 
point.

Please follow-up with Neurology, your primary care physician, 
and counseling as listed below. 

PER MASS DMV DRIVING LAWS: 

If you've experienced a seizure, syncope, or any other episode 
of altered consciousness which will affect the safe operation of 
a vehicle, you cannot obtain a learner's permit or driver's 
license. If you already have a learner's permit or driver's 
license, you must voluntarily surrender it or be subject to 
suspension or revocation until you have remained episode free 
for a period of at least 6 months.

At the end of the 6 month period, you may receive a Class D, 
Class M, or Class D/M learner's permit/driver's license when you 
provide the Medical Affairs with a completed loss of 
consciousness evaluation form or a written statement completed 
by your health care provider confirming that the you have been 
free from episodes for a minimum of 6 months and which states 
all of the following:
•The date of the most recent episode
•The cause of the episode (type of disorder suffered)
•The means by which the condition is controlled (including any 
medications and dosages)
•The degree of impairment or disability suffered during an 
episode (extent of episode)
•The probability of recurrence of the episode (including 
frequency of occurrence, degree of assurance that the event will 
not reoccur, and basis for estimate of probability)
•A certification that, to a reasonable degree of medical 
certainty, the customer's medical condition and medications will 
not interfere with the safe operation of a motor vehicle

The RMV may waive or shorten the 6 month episode-free 
requirement upon receipt of a written statement from a health 
care provider requesting that the policy be waived because the 
health care provider has determined that the customer's medical 
condition and medications will not interfere with the safe 
operation of a vehicle. The written statement must include a 
specific request from the health care provider to waive the 
6-month episode-free period, and it must also include all of the 
information listed above."

Sincerely,
Your ___ Neurology Team 
 
Followup Instructions:
___